US03975310
Safranal, prepared according to Compt. rend. 262, 1725 (1966), was reacted with propyne to give 2,6,6-trimethyl-1-[1-hydroxy-2-butynyl]-1,3-cyclohexadiene, following the procedure outlined in Example 18, paragraph b), for the reaction of citral with propyne. The above carbinol was oxidised with MnO2 to 2,6,6-trimethyl-1-tetrolyl-1,3-cyclohexadiene, following the procedure described in Example 18, paragraph c), for the oxidation of the dihydro analogue. The above acetylenic ketone was then partially reduced to the title compound following the method described in Example 18, paragraph a). Cis-2,6,6-trimethyl-1-crotonoyl-1,3-cyclohexadiene gave the following NMR data (CCl4): 1.06 (6 H, s), 1.69 (3 H, s), 2.09 (2 H, d, J = 2.3 cps), 2.14 (3 H, d, J = 5.5 cps), 5.81 (2 H, t + s, J = 2.3 cps), 6.2 (2 H, complex band) ppm (δ).

reactant | Safranal | CC1=C(C(CC=C1)(C)C)C=O | C10H14O
reactant | propyne | C#CC | C3H4
product | 2,6,6-trimethyl-1-[1-hydroxy-2-butynyl]-1,3-cyclohexadiene | CC1=C(C(CC=C1)(C)C)C(C#CC)O | C13H18O
